US07642264B2
3-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-benzenesulfonamide
The title compound was prepared from N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine (example C.2) (0.176 g, 0.5 mmol) and commercially available 3-sulfamoyl-benzoic acid (0.1 g, 0.5 mmol) according to the general procedure V. Obtained as an off-white solid (0.11 g, 42%). MS (ISN) 514.1 [(M−H)−]; mp 205° C.

reactant | N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine | 0.5 mmol, 0.176 g | ONC(=N)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H8F6N4O
reactant | 3-sulfamoyl-benzoic acid | 0.5 mmol, 0.1 g | S(N)(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H7NO4S
product | 3-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-benzenesulfonamide | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NOC(=N1)C=1C=C(C=CC1)S(=O)(=O)N)(F)F | C20H11F6N5O3S
